US08877794B2
34.2 3-(1-Amino-3-phenylpropan-2-yl)phenol
3-(3-Chlorophenyl)-2-(3-hydroxyphenyl)acrylonitrile (3.6 g, 14.08 mmol) was dissolved in 100 ml methanol, containing 0.02 eq Pd/C (0.3 g, 0.28 mmol) 10% on C. Hydrogenation was performed at room temperature over night. Reaction was filtered through celite and the solvent evaporated. The residue was suspended in ethyl acetate and the white precipitate was filtered and dried m=3.0 g (94%).

reactant | 3-(3-Chlorophenyl)-2-(3-hydroxyphenyl)acrylonitrile | 14.08 mmol, 3.6 g | ClC=1C=C(C=CC1)C=C(C#N)C1=CC(=CC=C1)O | C15H10ClNO
solvent | methanol | 100 ml | CO | CH4O
catalyst | Pd/C | 0.28 mmol, 0.3 g, 0.02 eq | [Pd] | Pd
product | 3-(1-Amino-3-phenylpropan-2-yl)phenol | NCC(CC1=CC=CC=C1)C=1C=C(C=CC1)O | C15H17NO
